US07446199B2
5-Bromo-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
To a solution of 5-bromo-7-azaindole (2.0 g, 10.1 mmol) in DCM (50 mL) was added AlCl3 (6.8 g, 51.0 mmol). The suspension was stirred at RT for 10 min and trichloroacetyl chloride (2.8 g, 15.40 mmol) was added slowly. The mixture was stirred at RT for overnight and then poured into iced-water. The aqueous solution was extracted with DCM three times, and organic layers were combined and evaporated. The crude solid was dissolved in THF (50 mL) and treated with water (25 mL) and triethylamine (5 mL) at RT for 6 h. The solvents were then removed by evaporation and the resulting solid was poured into 1N HCl solution. The crude product was collected by filtration and washed with water. After drying on the pump for over night, a white solid was obtained (2.4 g, 9.96 mmol). MS (ES+): m/e=241.0 (M+H); LC: 2.7 min.

reactant | 5-bromo-7-azaindole | 10.1 mmol, 2.0 g | BrC=1C=C2C=CNC2=NC1 | C7H5BrN2
reactant | AlCl3 | 51.0 mmol, 6.8 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | trichloroacetyl chloride | 15.40 mmol, 2.8 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
reactant | water | O | H2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | BrC=1C=C2C(=NC1)NC=C2C(=O)O | C8H5BrN2O2
